US04296120
N-(1-Methyldecyl)-3-(3-Nitrophenyl)-2-butenamide
To a stirred slurry of 5.2 g. of the 3-(3-nitrophenyl)-2-butenoic acid from Preparation 12 having a melting point of 208°-210° C., in 100 ml. of dichloromethane, was added 2.8 g. of triethylamine in 10 ml. of dichloromethane. This was followed by the addition of a solution of 3.0 g. of ethyl chloroformate in 20 ml. of dichloromethane, during 20 minutes. Stirring was continued for 30 minutes, and then a solution of 1-methyldecylamine in 20 ml. of dichloromethane was added dropwise during 25 minutes. Stirring was continued overnight, and the the reaction mixture was washed successively with 1 N potassium carbonate, water and saturated sodium chloride. The resulting solution was dried using sodium sulfate, and then it was evaporated in vacuo leaving an oil which solidified on trituration under petroleum ether. This afforded 4.9 g. of the title compound, m.p. 72.5°-74° C.

reactant | 3-(3-nitrophenyl)-2-butenoic acid | [N+](=O)([O-])C=1C=C(C=CC1)C(=CC(=O)O)C | C10H9NO4
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | 1-methyldecylamine | CC(CCCCCCCCC)N | C11H25N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(1-Methyldecyl)-3-(3-Nitrophenyl)-2-butenamide | CC(CCCCCCCCC)NC(C=C(C)C1=CC(=CC=C1)[N+](=O)[O-])=O | C21H32N2O3
